US05324747
Using this procedure, the reaction of 4-nitrocatechol with tetradecanoyl chloride gave 3,4-bis [(1-oxotetradecyl)oxy]nitrobenzene (mp 58°-60°, Anal. Calcd for C34H57NO6 : C, 70.72; H, 9.98; N, 2.43. Found: C, 70.91; H, 9.61; N, 2.41.

reactant | 4-nitrocatechol | [N+](=O)([O-])C=1C=C(C(O)=CC1)O | C6H5NO4
reactant | tetradecanoyl chloride | C(CCCCCCCCCCCCC)(=O)Cl | C14H27ClO
product | 3,4-bis [(1-oxotetradecyl)oxy]nitrobenzene | O=C(CCCCCCCCCCCCC)OC=1C=C(C=CC1OC(CCCCCCCCCCCCC)=O)[N+](=O)[O-] | C34H57NO6
